US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (47.50 mg, 0.221 mmol), 3-fluoro-N-ethyl-4-(piperazin-1-yl)benzamide (69.3 mg, 0.276 mmol) and (cyanomethyl)trimethylphosphonium iodide (86 mg, 0.353 mmol) in Propiononitrile (Volume: 1.00 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.192 mL, 1.104 mmol) at 23° C. The reaction was stirred at 95° C. for 15 hr. The suspension was cooled to 23° C., concentrated via rotary evaporation, re-constituted in ACN (2.0 mL), stirred for 15 min, filtered, rinsed with ACN (3×1 mL) and dried in vacuo. The crude solid was re-suspended in ACN (2.0 mL), heated to reflux, cooled to 23° C., filtered, rinsed with ACN (3×2.0 mL) to provide N-ethyl-3-fluoro-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.069 g, 0.221 mmol, 70.1% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (t, J=7.20 Hz, 3 H) 2.54-2.64 (m, 4 H) 3.07-3.17 (m, 4 H) 3.21-3.28 (m, 2 H) 3.63 (s, 2 H) 6.71-6.76 (m, 1 H) 7.01-7.10 (m, 2 H) 7.55-7.64 (m, 3 H) 7.67 (dd, J=3.03, 1.52 Hz, 1 H) 8.32 (t, J=5.43 Hz, 1 H) 8.36 (d, J=1.77 Hz, 1 H) 11.58 (br. s., 1 H). ESI-MS: m/z 449.4 (M+H)+. mp=262.7-267.4° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.221 mmol, 47.50 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | 3-fluoro-N-ethyl-4-(piperazin-1-yl)benzamide | 0.276 mmol, 69.3 mg | FC=1C=C(C(=O)NCC)C=CC1N1CCNCC1 | C13H18FN3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.353 mmol, 86 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.104 mmol, 0.192 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Propiononitrile | 1.00 mL | C(CC)#N | C3H5N
product | N-ethyl-3-fluoro-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.221 mmol, 0.069 g, 70.1% yield | C(C)NC(C1=CC(=C(C=C1)N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1)F)=O | C24H25FN6O2
